US07713994B2
A mixture of 2-hydroxy-4-methylpyridine (1.5 g, 14 mmol), 3-bromothiophene (4.5 g, 28 mmol), copper (I) iodide (0.27 g, 1.4 mmol), and potassium carbonate (1.9 g, 14 mmol) in N,N-dimethylformamide (30 mL) is heated in a 150° C. oil bath for 6 hours. After cooling to room temperature, the reaction mixture is diluted with 20% aqueous ammonium hydroxide solution and extracted 3× with diethyl ether. The combined extracts were washed with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, and concentrated under reduced pressure to give a crude oil, which is purified by flash chromatography (ethyl acetate/hexanes) to give 4-methyl-1-(3-thienyl)pyridin-2(1H)-one (0.79 g, 29%).

reactant | 2-hydroxy-4-methylpyridine | 14 mmol, 1.5 g | OC1=NC=CC(=C1)C | C6H7NO
reactant | 3-bromothiophene | 28 mmol, 4.5 g | BrC1=CSC=C1 | C4H3BrS
reactant | potassium carbonate | 14 mmol, 1.9 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | ammonium hydroxide | [OH-].[NH4+]
catalyst | copper (I) iodide | 1.4 mmol, 0.27 g | [Cu]I
product | 4-methyl-1-(3-thienyl)pyridin-2(1H)-one | 0.79 g, 29% | CC1=CC(N(C=C1)C1=CSC=C1)=O | C10H9NOS
